US07152050B2
If a negative result is obtained in this step SP12, the dialog control part 63 returns to step SP11, and then, it repeats the loop of steps SP11-SP12-SP11 until an affirmative result is obtained in this step SP12.

reactant | SP11 | COC1=CC=CC=C(C1=O)C2=CN=CN=C2 | C12H10N2O2
reactant | SP11 SP12 SP11 | COC1=CC=CC=C(C1=O)C2=CN=CN=C2.CC(=O)OC1=CC(=C(C(=O)C(=C1)OC(=O)C)OC(=O)C)OC(=O)C.COC1=CC=CC=C(C1=O)C2=CN=CN=C2
product | SP12 | CC(=O)OC1=CC(=C(C(=O)C(=C1)OC(=O)C)OC(=O)C)OC(=O)C | C15H14O9
